US05807860
Ethyl alcohol (150 ml) and n-pentylamine (12.7 g, 0.146 mol) were added to 5-bromo-2-methoxybenzaldehyde (30.0 g, 0.14 mol), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was cooled to 5° C., added with sodium borohydride (7.9 g, 0.209 mol), and then stirred at room temperature for 8 hours. The reaction mixture was added with water (50 ml) and aqueous 6N hydrochloric acid to decompose excess sodium borohydride, made alkaline with 25% aqueous sodium hydroxide, and extracted with toluene. The extract was washed with saturated brine and dried over anhydrous sodium sulfate, and then, the solvent was evaporated to give N-pentyl-(5-bromo-2-methoxyphenyl) methylamine (38.0 g).

reactant | n-pentylamine | 0.146 mol, 12.7 g | C(CCCC)N | C5H13N
reactant | 5-bromo-2-methoxybenzaldehyde | 0.14 mol, 30.0 g | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
reactant | sodium borohydride | 0.209 mol, 7.9 g | [BH4-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | Ethyl alcohol | 150 ml | C(C)O | C2H6O
product | N-pentyl-(5-bromo-2-methoxyphenyl) methylamine | 38.0 g | C(CCCC)NCC1=C(C=CC(=C1)Br)OC | C13H20BrNO
